US08211908B2
To a solution of 1.0 g of monoethyl oxalate in 14 mL of dichloromethane, 0.47 g of 5,6,7,8-tetrahydroquinoxaline, 91 μL of concentrated sulfuric acid, 1.7 g of sodium persulfate, and a suspension of 60 mg of silver nitrate in 14 mL of water were added, and the mixture was heated under reflux while stirring for 1 hour 30 minutes. To the reaction mixture, 1.7 g of sodium persulfate and 60 mg of silver nitrate were further added, and the mixture was heated under reflux for 1 hour 50 minutes. The reaction mixture was charged with chloroform and adjusted to pH 7.5 with a saturated aqueous sodium hydrogen carbonate solution, the insoluble substance was filtered off, and the organic layer was separated. The organic layer was washed with a saturated aqueous sodium chloride solution, and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The resultant residue was purified by flash silica gel column chromatography using gradient elution with hexane:ethyl acetate=90:10 to 67:33 to obtain 0.16 g of ethyl 5,6,7,8-tetrahydroquinoxaline-2-carboxylate as a yellow oily substance.

reactant | monoethyl oxalate | 1.0 g | C(C(=O)[O-])(=O)OCC
reactant | 5,6,7,8-tetrahydroquinoxaline | 0.47 g | N1=CC=NC=2CCCCC12 | C8H10N2
reactant | sulfuric acid | 91 μL | S(O)(O)(=O)=O | H2O4S
reactant | sodium persulfate | 1.7 g | S(=O)(=O)([O-])OOS(=O)(=O)[O-].[Na+].[Na+]
reactant | sodium persulfate | 1.7 g | S(=O)(=O)([O-])OOS(=O)(=O)[O-].[Na+].[Na+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 14 mL | ClCCl | CH2Cl2
solvent | water | 14 mL | O | H2O
catalyst | silver nitrate | 60 mg | [N+](=O)([O-])[O-].[Ag+]
catalyst | silver nitrate | 60 mg | [N+](=O)([O-])[O-].[Ag+]
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | ethyl 5,6,7,8-tetrahydroquinoxaline-2-carboxylate | 0.16 g | N1=C(C=NC=2CCCCC12)C(=O)OCC | C11H14N2O2
